US06093732
N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-{[(4-methoxyphenyl)-sulfonyl]amino}-3-quinolinecarboxamide
To a flask containing 6-amino-N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-3-quinolinecarboxamide from Example No. 186 (0.06 g) and pyridine (1.5 mL) is added 4-methoxyphenylsulfonyl chloride (0.04 g). The reaction mixture is stirred for 2 hours then concentrated under reduced pressure. The residue is triturated with toluene (2×) and dried in vacuo. The residue is adsorbed onto silica and chromatographed on silica eluting with 2% MeOH:CH2Cl2 to 6% MeOH:CH2Cl2. The product-containing fractions are evaporated to give 0.04 g of the title compound as a white solid.

reactant | 6-amino-N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-3-quinolinecarboxamide | NC=1C=C2C(=C(C=NC2=C(C1)F)C(=O)NCC1=CC=C(C=C1)Cl)O | C17H13ClFN3O2
reactant | 4-methoxyphenylsulfonyl chloride | 0.04 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-{[(4-methoxyphenyl)-sulfonyl]amino}-3-quinolinecarboxamide | 0.04 g | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)NS(=O)(=O)C2=CC=C(C=C2)OC)F)C=C1 | C24H19ClFN3O5S
